US06288138B1
Bis-GMA:
adduct of 1 mole of bisphenol A with 2 moles of glycidyl methacrylate

reactant | bisphenol A | 1 mole | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | glycidyl methacrylate | 2 moles | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
product | Bis-GMA | CC(=C)C(=O)OCC(COC1=CC=C(C=C1)C(C)(C)C2=CC=C(C=C2)OCC(COC(=O)C(=C)C)O)O | C29H36O8
